* Netlist from MC1648.asc
Q1 Vcc1 N001 OUT 0 NP
R1 OUT 0 300
Q2 N001 N004 N005 0 NP
Q3 Vcc1 N003 N005 0 NP
R2 Vcc1 N001 400
R3 N005 0 1K
R4 Vcc1 N003 2K
R5 N010 0 1K
Q4 N003 Tank N010 0 NP
Q5 AGC N010 N012 0 NP
D1 AGC N007 DD
R6 N012 0 600
Q6 Vcc1 Tank N006 0 NP
Q7 Tank Bias N006 0 NP
R7 N007 0 25K
Q8 N009 N007 0 0 NP
R8 N006 N009 200
Q9 Vcc1 N002 N004 0 NP
D2 N011 0 DD
R9 N008 0 1K
R10 N002 N004 2K
R11 Vcc1 N002 2K
Q11 N004 Bias N008 0 NP
R12 Vcc1 Bias 1K
R13 Vcc1 AGC 25K
C1 AGC 0 .1µ
V1 Vcc1 0 5
C2 Bias 0 .1µ
L1 Tank Bias 1µ
C3 Tank Bias 10p
D3 Bias N011 DD
.model DD D(Rs=20 Cjo=5p)
.model NP NPN(Bf=150 Cjc=3p Cje=3p Rb=10)
.tran 0 1.9m 0 1u startup
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end